Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Iodine
 
Attending: ___.
 
Chief Complaint:
ESRD
 
Major Surgical or Invasive Procedure:
cadaveric renal transplant ___
left forearm lesion excision

 
History of Present Illness:
Mr. ___ is a ___ year old male with ESRD secondary to
Polycystic Kidney Disease, hypertension and HCV who is being
transferred from prison to ___ for renal transplantation. The
patient's HPI begins approximately ___ years ago when he started
hemodyalysis ___ failing kidneys from PKD. He has been on HD MWF
ever since. In ___, the patient claims that the people at the
___ encouraged him to enroll for a kidney. At this
time he also found out that he was HCV+. The patient claims he
does not know how he became HCV+, he thinks that it might have
been from all the dialysis. He denies ever using IV drugs.  In
___, he had a right nephrectomy for kidney stones. The patient
has had many AV grafts which he claims have now all failed. He
also notes that most of his medical admissions stem from
line/catheter related infections. Approximately 3weeks ago he 
was
admitted to the BI for a catheter related infection where he was
treated for ___ related infection with antibiotics. Since 
then
he denies any fevers, chills, shortness of breath, cough, sore
throat, nausea, vomiting, diarrhea, or headaches. He is anuric.
He said his exercise tolerance is good and that he exercises
routinely. ROS is otherwise negative. 

 
Past Medical History:
ESRD on HD MWF through right Port-A-Cath, on dialysis since 
___, PD ___ complicated by recurrent peritonitis, failed 
LUE AV fistula ___ 
Polycystic kidney disease s/p right nephrectomy ___ 
Hypertension ___ years 
Hepatitis C dx ___ s/p failed interferon treatment ___ 

L5-S1 discitis, osteomyelitis, epidural abscess ___ 
enterococcus bacteremia, treated with 10 days of 
ampicillin/gentamycin 
Endocarditis (___) 
Hyperparathyroidism, s/p subtotal parathyroidectomy ___, 
revision ___ s/p thyroid lobectomy 
Gout (questionable diagnosis but on treatment) 
Carotid stenosis 
Restless leg syndrome 
Depression 
Chronic pain syndrome 

 
Social History:
___
Family History:
Mother - diagnosed with DM in her ___
Father - died of drugs and alcohol and pancreatic cancer at ___
3 of 4 or ___ healthy brother
2 children (estranged) - ___nd health ___ yo
 
Physical Exam:
Vitals: Pain:0, BP 147/86, Hr 62, RR 16 100%RA. Wt 67.2Kg.
GEN: NAD, AAOx3. Physically fit appears younger than stated age.
Several tattoos, several scars from access sites and surgeries
over his arms and torso. 
Heart: RRR. II/VI systolic murmur. 
Lungs: CTA B/L 
Abdomen: Non-tender, soft, non-distended. 
Extremities: UE Pulses R arm ulnar pulse 2+ radial not felt. L
arm 1+ radial/ulnar pulse. No c/c/e. Heavily scarred. 
Neuro: CN ___ in tact. Fluent speach. Appropriate affect. 

Labs: 

141|100|27     /       AGap=13
4.5|33    |       9.9       \

CBC: WBC 2.2. Hgb: 10, HCT 30, PLT 146

Additional labs pending.
 
Pertinent Results:
___ 01:00PM BLOOD WBC-2.2* RBC-3.02* Hgb-10.0* Hct-30.0* 
MCV-99* MCH-33.0* MCHC-33.2 RDW-15.2 Plt ___
___ 06:15AM BLOOD WBC-1.5* RBC-2.47* Hgb-8.1* Hct-24.0* 
MCV-99* MCH-32.7* MCHC-32.9 RDW-15.4 Plt Ct-83*
___ 05:10AM BLOOD ___ PTT-40.8* ___
___ 06:15AM BLOOD Glucose-119* UreaN-43* Creat-6.7*# Na-140 
K-4.1 Cl-101 HCO3-32 AnGap-11
___ 06:15AM BLOOD Calcium-9.0 Phos-4.3 Mg-2.3
___ 06:15AM BLOOD tacroFK-6.9
___ 04:55PM BLOOD HIV Ab-NEGATIVE
___ 04:55PM BLOOD HBsAg-NEGATIVE HBsAb-POSITIVE 
HBcAb-NEGATIVE
 
Brief Hospital Course:
On ___, he underwent renal transplant from a HCV positive 
donor (recipient's HCV VL was 1,100,000 cop/ml on ___ 
right iliac fossa with neo ureterocystostomy over a ___ 
double-J stent with JP drain placed. Small amounts of urine were 
made immediately. Surgeon was Dr. ___. A peritoneal 
tear occurred during mobilization of the peritoneum during 
vascular exposure. Per report the kidney was decapsulated. A old 
stent was also removed from left forearm. Please refer to 
operative note for details. Postop, vital signs.   

Urine output was scant. IV hydration was given. Creatinine 
remained elevated. On postop day 1, potassium was elevated to 
7.0. He experienced delayed renal graft function (DGF). 
Hemodialysis was performed via the tunnelled right IJ line. 
Urine output was scant averaging 32-0cc/day. IV fluid was 
stopped and hemodialysis continued with last treatment on ___ 
for 2300ml. Weight was 75.5kg on ___.  

He was given a total of 4 doses of ATG, Cellcept and tapering 
doses of steroids per protocol until off (last dose ___. 
Prograf was started on postop day 0. Trough levels were low 
(goal 10)and dose was up titrated to 10mg bid on ___. 

Labs were notable for hct that trended down daily to 24 on 
___. Epogen was planned for dialysis days. 

He was tolerating a regular diet, ambulating independently 
(steady on feet)and RLQ incision was clean, dry and intact with 
staples. The JP drain output was high initially (720ml/day)and 
thus the drain remained in place. Output decreased to 115 ml by 
postop day 5. JP drain fluid was serosanguinous and creatinine 
of this fluid was 6.8 ruling out a urine leak (similar to 
serum). He did have a small amount of scrotal edema and was 
instructed to elevate scrotum on a towel. 

Left forearm incision was intact with staples without 
redness/drainage. 

He was discharged back to prison. 

 
Medications on Admission:
Medications - Prescription
ALLOPURINOL -  (Prescribed by Other Provider) - 100 mg Tablet - 
1
Tablet(s) by mouth once a day
AMITRIPTYLINE -  (Prescribed by Other Provider) - 25 mg Tablet -
1 Tablet(s) by mouth twice a day
B COMPLEX-VITAMIN C-FOLIC ACID [DIALYVITE] -  (Prescribed by
Other Provider) - 1 mg-100 mg Tablet - 1 Tablet(s) by mouth once
a day
DOXERCALCIFEROL [HECTOROL] -  (Prescribed by Other Provider; 
Dose
adjustment - no new Rx) - 2.5 mcg Capsule - 1 Capsule(s) by 
mouth
TIW
EPOETIN ALFA [EPOGEN] -  (Prescribed by Other Provider) - 10,000
unit/mL Solution - at HD at HD
HYDRALAZINE -  (Prescribed by Other Provider) - 25 mg Tablet - 1
Tablet(s) by mouth four times a day
LISINOPRIL -  (Prescribed by Other Provider) - 40 mg Tablet - 1
Tablet(s) by mouth once a day
METOPROLOL TARTRATE -  (Prescribed by Other Provider) - 50 mg
Tablet - 2 Tablet(s) by mouth twice a day
MORPHINE -  (Prescribed by Other Provider) - 30 mg Tablet - 1
Tablet(s) by mouth twice a day
ROPINIROLE -  (Prescribed by Other Provider) - 1 mg Tablet - ___ tabs Tablet(s) by mouth hs
SEVELAMER CARBONATE [RENVELA] -  (Prescribed by Other Provider;
Dose adjustment - no new Rx) - 800 mg Tablet - 3 Tablet(s) by
mouth four times a day
TRIAMCINOLONE ACETONIDE -  (Prescribed by Other Provider) - 0.1 
%
Cream - as di twice a day
 
Medications - OTC
DIPHENHYDRAMINE HCL -  (Prescribed by Other Provider) - 25 mg
Capsule - 2 Capsule(s) by mouth prn tid itch
DOCUSATE SODIUM -  (Prescribed by Other Provider) - 100 mg
Capsule - 1 Capsule(s) by mouth twice a day

 
Discharge Medications:
1. sulfamethoxazole-trimethoprim 400-80 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
2. nystatin 100,000 unit/mL Suspension Sig: Five (5) ML PO QID 
(4 times a day).  
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for Pain.  
5. mycophenolate mofetil 500 mg Tablet Sig: Two (2) Tablet PO 
BID (2 times a day).  
6. famotidine 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. allopurinol ___ mg Tablet Sig: One (1) Tablet PO EVERY OTHER 
DAY (Every Other Day).  
8. tacrolimus 5 mg Capsule Sig: Two (2) Capsule PO Q12H (every 
12 hours).  
9. amitriptyline 50 mg Tablet Sig: One (1) Tablet PO HS.  
10. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
11. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day): hold if sbp <110 or HR <60.  
12. zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime). 
 
13. valganciclovir 450 mg Tablet Sig: One (1) Tablet PO 2X/WEEK 
(___).  
14. ropinirole 1 mg Tablet Sig: One (1) Tablet PO QPM (once a 
day (in the evening)).  
15. morphine 30 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO Q12H (every 12 hours).  
16. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.  
17. sevelamer carbonate 800 mg Tablet Sig: Three (3) Tablet PO 
TID W/MEALS (3 TIMES A DAY WITH MEALS).  
18. Outpatient Lab Work
Every ___ and ___ for cbc, chem 10, UA, ast, t.bili and 
trough prograf level with results fax'd to ___ Transplant, 
___ RN ___
19. Outpatient Lab Work
Labs ___ for cbc, chem 10, ast, t.bili, ua and 
trough prograf. Process stat fax to ___ Transplant, ___ RN 
coordinator

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
esrd
L forearm AVF stent

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You will continue on dialysis until kidney function improves
-blood will be drawn for lab monitoring twice weekly
-you may shower as long as you keep the tunnelled line clean and 
dry
-empty and record abdominal JP drain output. bring record of 
drain outputs to next outpatient follow up appointment
-
 
Followup Instructions:
___